US03968237
A solution of 1.9 g of 2-methyl-3-carbethoxy-4-chloro-5-hydroxybenzofuran, 2.6 ml of a 33 percent aqueous solution of dimethylamine and 0.6 ml of 36 percent Formalin in 12 ml of dimethylformamide is refluxed at a temperature of 100° to 105° for 8 hours and then cooled to ambient temperature. The precipitated crystals are filtered off, washed with water and dried in order to yield 0.75 g of crystalline 2-methyl-3-carbethoxy-4-chloro-hydroxy-6-dimethylaminomethylbenzofuran. An additional 0.4 g of crystals is obtained from the parent solution by dilution with water. The total yield is 1.15 g (50%); m.p., 130°-131°C (from alcohol). Mixed melting of the product crystals with a specimen from Example 1a gave no depression of the melting point.

reactant | 2-methyl-3-carbethoxy-4-chloro-5-hydroxybenzofuran | 1.9 g | CC=1OC2=C(C1C(=O)OCC)C(=C(C=C2)O)Cl | C12H11ClO4
reactant | dimethylamine | CNC | C2H7N
reactant | Formalin | 0.6 ml | C=O | CH2O
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 2-methyl-3-carbethoxy-4-chloro-hydroxy-6-dimethylaminomethylbenzofuran | 0.75 g | CC=1OC2=C(C1C(=O)OCC)C(=C(C(=C2)CN(C)C)O)Cl | C15H18ClNO4
